US04003921
1000g isobutyraldehyde and about 100 g of a commercially available nickel containing carrier catalyst (containing about 52 to 53% by weight nickel, and employing chromium (3)-oxide as activator) are introduced into a 2 l three-necked flask, equipped with a gas inlet tube, a stirrer and a reflux condensor, and cooled to -15° C. Hydrogen and ammonia are introduced into the resulting suspension in a volume ratio of 1 : 1 and at a temperature of 90° C. 160 l of gas are introduced per hour. Altogether, 240 l hydrogen and 240 l gaseous ammonia are introduced. After termination of the reaction, the catalyst is separated by filtration. 889 g isobutylidene -- isobutylamine are obtained.

reactant | isobutyraldehyde | C(C(C)C)=O | C4H8O
reactant | Hydrogen | [H][H] | H2
reactant | hydrogen | 240 l | [H][H] | H2
reactant | ammonia | 240 l | N | H3N
catalyst | nickel | [Ni] | Ni
product | isobutylidene -- isobutylamine | 889 g | C(C(C)C)=NCC(C)C | C8H17N
